US06933388B2
2-[[(Dimethylamino)methylene]amino]-4-ethoxy-5-nitrobenzoic acid, methyl ester
A 3-L round-bottomed flask under N2 equipped with an overhead stirrer, a condenser and a thermocouple is charged with 2-amino-4-ethoxy-5-nitrobenzoic acid methyl ester (80 g, 333 mmol) and N,N-dimethylformamide dimethyl acetal (500 mL). The reaction mixture is heated to reflux (100° C.). Once the thick slurry becomes homogeneous and the reaction is complete, the reaction mixture is cooled to 25 to 30° C. The reaction mixture is diluted with water (3 L) and the resulting suspension is filtered. The filter cake is washed with water (3×500 mL) and dried under vacuum (50 mm Hg) at 55° C. to provide the title compound as an off-white solid (89.6 g, 91% yield, >90% purity by NMR integration). 1H NMR (300 MHz, DMSO-d6): 8.23 (s, 1H), 7.81 (s, 1H), 6.71 (s, 1H), 4.22 (q, J=7 Hz), 3.68 (s, 3H), 3.09 (s, 3H), 2.97 (s, 3H), 1.40 (t, J=7 Hz, 3H).

reactant | 2-amino-4-ethoxy-5-nitrobenzoic acid methyl ester | 333 mmol, 80 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OCC)N)=O | C10H12N2O5
reactant | N,N-dimethylformamide dimethyl acetal | 500 mL | COC(N(C)C)OC | C5H13NO2
solvent | water | 3 L | O | H2O
product | 2-[[(Dimethylamino)methylene]amino]-4-ethoxy-5-nitrobenzoic acid, methyl ester | 89.6 g, 91% yield | CN(C)C=NC1=C(C(=O)OC)C=C(C(=C1)OCC)[N+](=O)[O-] | C13H17N3O5
